US06235731B1
3) Synthesis of (E)-N-[1-(3-phenylpropan-1-yl)piperidin-4-ylmethyl]-2-(5-thia-1,8b-diazaacenaphthylen-4-yl)vinylsulfonamide dihydrochloride
In 2 ml of methanol was dissolved 0.217 g of (E)-N-[1-(3-phenylpropan-1-yl)piperidin-4-ylmethyl]-2-(5-thia-1,8b-diazaacenaphthylen-4-yl)vinylsulfonamide, followed by addition of a stoichiometric excess of methanolic hydrochloric acid, and the mixture was stirred for 10 minutes. This reaction mixture was concentrated to provide the title compound.

reactant | (E)-N-[1-(3-phenylpropan-1-yl)piperidin-4-ylmethyl]-2-(5-thia-1,8b-diazaacenaphthylen-4-yl)vinylsulfonamide | 0.217 g | C1(=CC=CC=C1)CCCN1CCC(CC1)CNS(=O)(=O)\C=C\C1=CC2=CN=C3C=CC=C(S1)N32 | C26H30N4O2S2
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 2 ml | CO | CH4O
product | (E)-N-[1-(3-phenylpropan-1-yl)piperidin-4-ylmethyl]-2-(5-thia-1,8b-diazaacenaphthylen-4-yl)vinylsulfonamide dihydrochloride | Cl.Cl.C1(=CC=CC=C1)CCCN1CCC(CC1)CNS(=O)(=O)\C=C\C1=CC2=CN=C3C=CC=C(S1)N32 | InChI=1S/C26H30N4O2S2.2ClH/c31-34(32,17-13-24-18-23-20-27-25-9-4-10-26(33-24)30(23)25)28-19-22-11-15-29(16-12-22)14-5-8-21-6-2-1-3-7-21;;/h1-4,6-7,9-10,13,17-18,20,22,28H,5,8,11-12,14-16,19H2;2*1H/b17-13+;;
